US04140785
A solution of 0.1 mole of 1,6-dimethyl-1H-(1)-benzothieno[3,2-c]pyrazol-3-amine and 30.0 g. of acetic anhydride in 180 ml. of tetrahydrofuran was heated under reflux for 1 hour. The reaction mixture was then cooled to 20° C. and the precipitate which formed was collected by filtration. Recrystallization from N,N-dimethyl formamide/water gave N-(1,6-dimethyl-1H-(1)benzothieno-[3,2-c]pyrazol-3-yl)acetamide, m.p. 253°-255° C.

reactant | 1,6-dimethyl-1H-(1)-benzothieno[3,2-c]pyrazol-3-amine | 0.1 mole | CN1N=C(C2=C1C1=C(S2)C=C(C=C1)C)N | C11H11N3S
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-(1,6-dimethyl-1H-(1)benzothieno-[3,2-c]pyrazol-3-yl)acetamide | CN1N=C(C2=C1C1=C(S2)C=C(C=C1)C)NC(C)=O | C13H13N3OS
